US08021574B2
Under an argon gas atmosphere, 128.0 g (1.049 mol) of phenylboronic acid, 300.0 g (1.163 mol) of 1.4-dibromonaphthalene, 24.2 g (21.0 mmol) of tetrakis(triphenylphosphine)palladium(0), 4.3 L of dimethoxyethane and 1.60 L of 2M sodium carbonate solution were mixed, and stirred for 24 hours at 78 degrees C. The reaction mixture was further added with toluene and water, and then aqueous phase thereof was eliminated. After organic phase thereof was cleansed by water and dried with magnesium sulfate, toluene was distilled away under reduced pressure. By refining residue thereof by silica-gel column chromatography and by recrystallizing the residue by hexane, 122 g of 1-bromo-4-phenyl naphthalene was obtained with an yield of 41%.

reactant | phenylboronic acid | 1.049 mol, 128.0 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 1.4-dibromonaphthalene | 1.163 mol, 300.0 g | BrC1=CC=C(C2=CC=CC=C12)Br | C10H6Br2
reactant | dimethoxyethane | 4.3 L | C(OC)COC | C4H10O2
reactant | sodium carbonate | 2M, 1.60 L | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 21.0 mmol, 24.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-bromo-4-phenyl naphthalene | 122 g, yield of 41% | BrC1=CC=C(C2=CC=CC=C12)C1=CC=CC=C1 | C16H11Br
